US04358593
6-methanesulfonyloxy-2-(4-methanesulfonyloxyphenyl)-3-[4-(2-pyrrolidinoethoxy)benzoyl]benzo[b]thiophene, hydrochloride
The acid chloride of 20.4 g. of 4-(2-pyrrolidinoethoxy)benzoic acid, hydrochloride was prepared as described in Example 1, and was used to acylate 20 g. of 6-methanesulfonyloxy-2-(4-methanesulfonyloxyphenyl)benzo[b]thiophene as described in Example 1, except that the amount of aluminum chloride was 60 g., of which 30 g. was added initially, and the rest was added in 10 g. portions at 15 minute intervals. The reaction mixture was stirred for 16 hours, and was worked up as described in Example 1 to obtain an oil, which was crystallized from denatured ethanol to obtain 27.5 g. of purified product, m.p. 196°-199°. A 4 g. sample was purified further by chromatography to obtain an analytical sample, m.p. 207°-207.5°.

reactant | 4-(2-pyrrolidinoethoxy)benzoic acid, hydrochloride | Cl.N1(CCCC1)CCOC1=CC=C(C(=O)O)C=C1
reactant | 6-methanesulfonyloxy-2-(4-methanesulfonyloxyphenyl)benzo[b]thiophene | CS(=O)(=O)OC=1C=CC2=C(SC(=C2)C2=CC=C(C=C2)OS(=O)(=O)C)C1 | C16H14O6S3
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
product | 6-methanesulfonyloxy-2-(4-methanesulfonyloxyphenyl)-3-[4-(2-pyrrolidinoethoxy)benzoyl]benzo[b]thiophene, hydrochloride | Cl.CS(=O)(=O)OC=1C=CC2=C(SC(=C2C(C2=CC=C(C=C2)OCCN2CCCC2)=O)C2=CC=C(C=C2)OS(=O)(=O)C)C1 | InChI=1S/C29H29NO8S3.ClH/c1-40(32,33)37-23-11-7-21(8-12-23)29-27(25-14-13-24(19-26(25)39-29)38-41(2,34)35)28(31)20-5-9-22(10-6-20)36-18-17-30-15-3-4-16-30;/h5-14,19H,3-4,15-18H2,1-2H3;1H
